US06617324B1
4-[3-(4-Fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine
A solution of 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-[(4-methoxyphenyl)methyl]-2-pyrimidinamine prepared in accordance with Example A-305 (0.35 g, 0.00093 mol) in 15 mL of trifluoroacetic acid was heated at reflux for 16 hours. Solvent was removed and the residue was partitioned between ethyl acetate and 1 N ammonia hydroxide. Organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and purified by chromatography on silica gel (ethyl acetate) to give 0.14 g of product, 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine, as a pale yellow solid (59% yield), mp: 273-274° C.; Anal. Calc'd for C13H10FN50.25H2O: C, 60.11; H, 4.07; N, 26.96. Found: C, 60.15; H, 3.82; N, 26.38.

reactant | 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-[(4-methoxyphenyl)methyl]-2-pyrimidinamine | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)NCC1=CC=C(C=C1)OC | C21H18FN5O
solvent | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[3-(4-Fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine | 0.14 g | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)N | C13H10FN5
